US06936716B1
N-phenyl-1,2-phenylenediamine (1.84 g, 10 mmol) and 40 ml of dichloromethane were charged in a 250 ml round bottle, 3 ml of triethylamine was then added, and the mixture was cooled to 0° C. 2,4-Difluoro-benzoyl chloride (1.94 g, 11 mmol) was dissolved in 40 ml of dichloromethane and then slowly added to the 250 ml round bottle. The reaction was conducted under a nitrogen atmosphere for 6 hours. After the reaction was complete, ether was added to form precipitation. The solid product was collected by filtration, washed with ether several times, and heated under reduced pressure to form 2-(2,4-difluoro-phenyl)-1-phenyl-1H-benzoimidazole (yield=1.83 g, 60%).

reactant | N-phenyl-1,2-phenylenediamine | 10 mmol, 1.84 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-Difluoro-benzoyl chloride | 11 mmol, 1.94 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(2,4-difluoro-phenyl)-1-phenyl-1H-benzoimidazole | yield=1.83 g, 60% | FC1=C(C=CC(=C1)F)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C19H12F2N2
